US08497264B2
In a 100-mL flask, crude (5)-tert-butyl 2′-(2-fluoropyridin-3-yl)-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate (0.462 g, 0.968 mmol) was dissolved in DCM (10 mL). The solution was cooled to 0° C., and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (0.513 g, 1.43 mmol) and triethylamine (0.243 mL, 1.74 mmol) were added. After 3 h, the reaction was concentrated and material was purified by chromatography (33% EtOAc/hexanes) to afford (S)-5-(tert-butoxycarbonylamino)-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (0.293 g, 0.481 mmol).

reactant | (5)-tert-butyl 2′-(2-fluoropyridin-3-yl)-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | 0.968 mmol, 0.462 g | FC1=NC=CC=C1C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)O)COCC(=N3)NC(OC(C)(C)C)=O | C26H24FN3O5
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.43 mmol, 0.513 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | triethylamine | 1.74 mmol, 0.243 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(tert-butoxycarbonylamino)-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.481 mmol, 0.293 g | FC(S(=O)(=O)OC1=CC=C2OC=3C=CC(=CC3[C@]3(C2=C1)COCC(=N3)NC(=O)OC(C)(C)C)C=3C(=NC=CC3)F)(F)F | C27H23F4N3O7S
